US07332501B2
a) 10-(2,2,2-Trifluoro-acetyl)-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester
To a stirred solution of 0.21 ml (1.5 mmol) trifluoroacetic anhydride in 7 ml 1,2-dichloroethane was added at 0° C. a solution of 0.37 g (1.4 mmol) 3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester and a solution of 0.23 ml (1.63 mmol) triethylamine in 3 ml 1,2-dichloroethane. After stirring for 30 min the reaction mixture was quenched with saturated aqueous sodium hydrogen carbonate solution and extracted with dichloromethane (2×100 ml). The combined organic layers were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (n-heptane/ethyl acetate) to give the title compound (0.288 g, 58%) as a light yellow solid.

reactant | trifluoroacetic anhydride | 1.5 mmol, 0.21 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 1.4 mmol, 0.37 g | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=CC=CC3C2)CC1 | C16H20N2O2
reactant | triethylamine | 1.63 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | 7 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | 10-(2,2,2-Trifluoro-acetyl)-3,4-dihydro-1H-pyrazino[1,2-a]indole-2-carboxylic acid tert-butyl ester | 0.288 g, 58% | C(C)(C)(C)OC(=O)N1CC=2N(C=3C=CC=CC3C2C(C(F)(F)F)=O)CC1 | C18H19F3N2O3
